datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCC(C(=O)[O-])[NH2+:21][H:20].COc1cc(C[NH2:10])ccc1O>>CCC(C(=O)[O-])[NH2:21].COc1cc(C[NH2+:10][H:20])ccc1O 10=20;20,21=21",
"CCOP(=O)(c1ccc([N+](=O)[O-])cc1)[N-:10]c1nccs1.NC1=[NH+][C@H]2C[C@@H](N1)[NH2+][C@@H]2C(=O)[O:21][H:20]>>CCOP(=O)(c1ccc([N+](=O)[O-])cc1)[N:10](c1nccs1)[H:20].NC1=[NH+][C@H]2C[C@@H](N1)[NH2+][C@@H]2C(=O)[O-:21] 10=20;20,21=21",
"C[n+]1c2ccccc2nc2ccc([O:21][H:20])cc21.c1ccc2[nH]c(C[NH2:10])nc2c1>>C[n+]1c2ccccc2nc2ccc([O-:21])cc21.c1ccc2[nH]c(C[NH2+:10][H:20])nc2c1 10=20;20,21=21",
"N#Cc1ccc[n+:21]([H:20])c1.[NH3+]CCc1ccccc1[O-:10]>>N#Cc1ccc[n:21]c1.[NH3+]CCc1ccccc1[O:10][H:20] 10=20;20,21=21",
"Cc1cc2cccc([O:21][H:20])c2nc1C.O=[N+]([O-])/C=C/c1ccc([O-:10])cc1>>Cc1cc2cccc([O-:21])c2nc1C.O=[N+]([O-])/C=C/c1ccc([O:10][H:20])cc1 10=20;20,21=21",
"CCc1ccc([O-:10])c(C(C)C)c1.N#CCCNC(CC(N)=O)C(=O)[O:21][H:20]>>CCc1ccc([O:10][H:20])c(C(C)C)c1.N#CCCNC(CC(N)=O)C(=O)[O-:21] 10=20;20,21=21",
"C[C@H](CCC[NH+:21](Cc1ccccc1)[H:20])[C@H]1CC[C@H]2[C@@H]3[C@@H](O)C[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3CC[C@]12C.O=[N+]([O-])c1ccc([O-])c(C[N:10]2CCOCCOCCOCCOCCOCC2)c1>>C[C@H](CCC[NH:21]Cc1ccccc1)[C@H]1CC[C@H]2[C@@H]3[C@@H](O)C[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3CC[C@]12C.O=[N+]([O-])c1ccc([O-])c(C[N+:10]2([H:20])CCOCCOCCOCCOCCOCC2)c1 10=20;20,21=21",
"Cc1ccc(C(O)C[NH2+:21][H:20])cc1.Fc1ccc([S-:10])cc1>>Cc1ccc(C(O)C[NH2:21])cc1.Fc1ccc([S:10][H:20])cc1 10=20;20,21=21",
"CC1NCCC[NH:10]1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC1NCCC[NH+:10]1[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C=C(C(=O)O[C@H]1C[C@@H]2[C@@H]3O[C@@H]3[C@H](C1)[N+:21]2(C)[H:20])c1ccccc1.C[NH2+]CCC[NH2:10]>>C=C(C(=O)O[C@H]1C[C@@H]2[C@@H]3O[C@@H]3[C@H](C1)[N:21]2C)c1ccccc1.C[NH2+]CCC[NH2+:10][H:20] 10=20;20,21=21",
"C[N+](C)(C)Cc1ccccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[N+](C)(C)Cc1ccccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(C)[NH+:21](CC(O)c1cccc(F)c1)[H:20].CCOc1cccc(/[N:10]=C\N(C)C)c1>>CC(C)[NH:21]CC(O)c1cccc(F)c1.CCOc1cccc(/[N+:10](=C\N(C)C)[H:20])c1 10=20;20,21=21",
"CCC1=C2C(=[N+:21]([H:20])c3ccccc32)N(C)C(Cl)=C1.Cc1cc([O-:10])n(-c2ccccc2)n1>>CCC1=C2C(=[N:21]c3ccccc32)N(C)C(Cl)=C1.Cc1cc([O:10][H:20])n(-c2ccccc2)n1 10=20;20,21=21",
"Oc1cccc2c1Cc1cc([NH2:10])ccc1-2.c1coc(-c2cccc[n+:21]2[H:20])c1>>Oc1cccc2c1Cc1cc([NH2+:10][H:20])ccc1-2.c1coc(-c2cccc[n:21]2)c1 10=20;20,21=21",
"CC(C)(C)Cc1ccc([O:21][H:20])cc1.NC1=[NH+]C(CC(=O)[O-])C(=O)N1CCCC(C(=O)[O-])[NH2:10]>>CC(C)(C)Cc1ccc([O-:21])cc1.NC1=[NH+]C(CC(=O)[O-])C(=O)N1CCCC(C(=O)[O-])[NH2+:10][H:20] 10=20;20,21=21",
"Nc1ccc(Cc2ccc([NH2:10])cc2)cc1.O=P([O-])(O)C([NH2+]Cc1ccc[n+:21]([H:20])c1)c1ccccc1O>>Nc1ccc(Cc2ccc([NH2+:10][H:20])cc2)cc1.O=P([O-])(O)C([NH2+]Cc1ccc[n:21]c1)c1ccccc1O 10=20;20,21=21",
"C(=C\c1cc[n:10]cc1)\c1ccccc1.CC1(C)OC(=O)C[C@H]2[C@@H](C(=O)[O:21][H:20])[NH2+]C[C@H]21>>C(=C\c1cc[n+:10]([H:20])cc1)\c1ccccc1.CC1(C)OC(=O)C[C@H]2[C@@H](C(=O)[O-:21])[NH2+]C[C@H]21 10=20;20,21=21",
"[NH3+]C(Cc1ccc[nH+]c1)C(=O)[O:21][H:20].c1nc2cc([O-:10])ccc2[nH]1>>[NH3+]C(Cc1ccc[nH+]c1)C(=O)[O-:21].c1nc2cc([O:10][H:20])ccc2[nH]1 10=20;20,21=21",
"CCC(=O)[N-:10]OC(=O)/C=C/c1ccccc1.COC(=O)Cc1ccccc1[NH2+:21][H:20]>>CCC(=O)[N:10](OC(=O)/C=C/c1ccccc1)[H:20].COC(=O)Cc1ccccc1[NH2:21] 10=20;20,21=21",
"O=C(c1ccoc1)[O:21][H:20].c1ccc(-c2ccccc2[O-:10])cc1>>O=C(c1ccoc1)[O-:21].c1ccc(-c2ccccc2[O:10][H:20])cc1 10=20;20,21=21",
"C[N+](C)(C)CCc1cccc([O-:10])c1.O=C1NC=C(SSC2=CNC(=O)[N:21]([H:20])C2=O)C(=O)N1>>C[N+](C)(C)CCc1cccc([O:10][H:20])c1.O=C1NC=C(SSC2=CNC(=O)[N-:21]C2=O)C(=O)N1 10=20;20,21=21",
"O=C([O-])C(CO)[NH+:21](Cc1cc([N+](=O)[O-])ccc1[O-])[H:20].[NH3+]CCCCc1cccc[n:10]1>>O=C([O-])C(CO)[NH:21]Cc1cc([N+](=O)[O-])ccc1[O-].[NH3+]CCCCc1cccc[n+:10]1[H:20] 10=20;20,21=21",
"CN/C=[NH+]/c1cccc(-c2csc(N=C(N)N)[n+:21]2[H:20])c1.C[N+](C)(C)c1cccc([O-:10])c1>>CN/C=[NH+]/c1cccc(-c2csc(N=C(N)N)[n:21]2)c1.C[N+](C)(C)c1cccc([O:10][H:20])c1 10=20;20,21=21",
"CCC(C)(CC)[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCC(C)(CC)[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"O=C([O-])CC(C(=O)[O-])[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C([O-])CC(C(=O)[O-])[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[N:10](C)c1ccc(/C=C/c2nnnn2-c2ccccc2)cc1.Cc1cc([O:21][H:20])n(C2CC[NH+](C)CC2)n1>>C[N+:10](C)(c1ccc(/C=C/c2nnnn2-c2ccccc2)cc1)[H:20].Cc1cc([O-:21])n(C2CC[NH+](C)CC2)n1 10=20;20,21=21",
"Nc1cc([O-:10])ccc1O.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Nc1cc([O:10][H:20])ccc1O.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CN1CCCCC[N+:21]1(C)[H:20].Nc1cccc2cccc([NH2:10])c12>>CN1CCCCC[N:21]1C.Nc1cccc2cccc([NH2+:10][H:20])c12 10=20;20,21=21",
"CC1=CC=C([CH:21](C(=O)C2=CC=[N+](C)C=C2)[H:20])C=C1.CC[O-:10]>>CC1=CC=C([CH-:21]C(=O)C2=CC=[N+](C)C=C2)C=C1.CC[O:10][H:20] 10=20;20,21=21",
"CCC[NH:10]CC[S-].[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CCC[NH+:10](CC[S-])[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
